US05707987
To a solution of (2S,4R)-2-acetylthiomethyl-N-t-butoxycarbonyl-4-t-butyldimethylsiloxypyrrolidine (3.9 g, 10 mmol) in methanol (50 ml), 1N aqueous NaOH (11.0 ml, 11 mmol) was added in nitrogen stream under cooling with ice. The resulting solution was stirred for 30 minutes, then brought together with 1N aqueous HCl (12.0 ml, 12 mmol), and concentrated in vacuo. The resulting residue was poured into a liquid mixture of ethyl acetate with water. The organic layer was washed with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and concentrated in vacuo to give a crude product of (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-mercaptomethylpyrrolidine.

reactant | (2S,4R)-2-acetylthiomethyl-N-t-butoxycarbonyl-4-t-butyldimethylsiloxypyrrolidine | 10 mmol, 3.9 g | C(C)(=O)SC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C18H35NO4SSi
reactant | NaOH | 11 mmol, 1N, 11.0 ml | [OH-].[Na+]
reactant | HCl | 12 mmol, 1N, 12.0 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-mercaptomethylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CS | C16H33NO3SSi
